US06955851B2
A reaction flask under nitrogen containing magnesium turnings (223.9 g, 9.21 mol) and 1950 mL THF was charged with 1 drop of 1,2-dibromoethane and heated to reflux for 1 h. Heating was removed and p-bromoanisole (1683 g, 9.00 mol) was added dropwise at a rate to maintain reflux. After holding the reaction mixture overnight, POCl3 (460.0 g, 3.00 mol) was added slowly over 2 h at 50-79° C. and the resulting mixture was held overnight at 50° C. The product was isolated by aqueous workup to give 984.5 g of tris(4-methoxyphenyl)phosphine oxide (89.0% yield). Recrystallized analytical specimen (from ethyl acetate): mp 145.2° C. (DSC), lit. 143-144° C. (J. Org. Chem. 1960, 25, 2001).

reactant | magnesium | 9.21 mol, 223.9 g | [Mg] | Mg
reactant | p-bromoanisole | 9.00 mol, 1683 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | POCl3 | 3.00 mol, 460.0 g | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | 1,2-dibromoethane | 1 drop | BrCCBr | C2H4Br2
solvent | THF | 1950 mL | C1CCOC1 | C4H8O
product | tris(4-methoxyphenyl)phosphine oxide | 984.5 g, 89.0% yield | COC1=CC=C(C=C1)P(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)=O | C21H21O4P
